US09034866B2
Methyl 10-bromo-3-formyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was reacted with pyrrolidine similarly to as described in Example 7 to afford 320 mg (70%) of methyl 10-bromo-3-(pyrrolidin-1-ylmethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate as a white solid. methyl 10-bromo-3-(pyrrolidin-1-ylmethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was subjected to General Procedure L to afford 130 mg (47%) of 10-bromo-3-(pyrrolidin-1-ylmethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide. 10-bromo-3-(pyrrolidin-1-ylmethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one similarly to as described in General Procedure F with non-critical modifications to afford 14 mg (19%) of 10-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-3-(pyrrolidin-1-ylmethyl)-5,6,7,12-tetrahydro-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide.

reactant | Methyl 10-bromo-3-formyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C=O)C1 | C16H13BrN2O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | methyl 10-bromo-3-(pyrrolidin-1-ylmethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 320 mg, 70% | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)CN3CCCC3)C1 | C20H22BrN3O2
